US05589478
To a solution of N-[5-bromo-6-(2-hydroxyethoxy)pyrimidin-4-yl]-4-tert-butylbenzenesulfonamide (3.10 g) in dimethylacetamide (30 ml) is added sodium hydride (60% dispersion-type, 720 mg), and the mixture is stirred at room temperature for 30 minutes. To the mixture is added 2-chloro-5-methylthiopyrimidine (1.51 g), and the mixture is stirred at room temperature overnight. The reaction solution is treated with 10% hydrochloric acid and saturated ammonium chloride solution, and extracted with ethyl acetate. The ethyl acetate layer is washed, dried, and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; chloroform/ethyl acetate=10:1), and recrystallized from hexane/ethyl acetate to give N-{5-bromo-6-[2-(5-methylthiopyrimidin-2-yloxy)ethoxy]pyrimidin-4-yl}-4-tert-butylbenzenesulfonamide (3.34 g).

reactant | N-[5-bromo-6-(2-hydroxyethoxy)pyrimidin-4-yl]-4-tert-butylbenzenesulfonamide | 3.10 g | BrC=1C(=NC=NC1OCCO)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C16H20BrN3O4S
reactant | sodium hydride | 720 mg | [H-].[Na+]
reactant | 2-chloro-5-methylthiopyrimidine | 1.51 g | ClC1=NC=C(C=N1)SC | C5H5ClN2S
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylacetamide | 30 ml | CC(=O)N(C)C | C4H9NO
product | N-{5-bromo-6-[2-(5-methylthiopyrimidin-2-yloxy)ethoxy]pyrimidin-4-yl}-4-tert-butylbenzenesulfonamide | 3.34 g | BrC=1C(=NC=NC1OCCOC1=NC=C(C=N1)SC)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C21H24BrN5O4S2
